US04378370
8(a) (1S,5R,6S,7R)-7-Benzoyloxy-6-(tert.-butyldimethylsilyloxy)methyl-2-oxabicyclo[3.3.0]octan-3-one
A solution of 16.58 g of (1S,5R,6S,7R)-7-benzoyloxy-6-hydroxymethyl-2-oxabicyclo[3.3.0]octan-3-one in 18 ml of dimethylformamide is combined at 0° C. with 10.21 g of imidazole and 10.85 g of tert.-butyldimethylsilyl chloride. The mixture is stirred for 24 hours at 20° C., diluted with 1.5 l of ether, shaken in succession with 5% sulfuric acid and brine, dried over magnesium sulfate, and evaporated under vacuum. The residue is recrystallized from hexane.

reactant | (1S,5R,6S,7R)-7-benzoyloxy-6-hydroxymethyl-2-oxabicyclo[3.3.0]octan-3-one | 16.58 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H]([C@H]2CC(O[C@H]2C1)=O)CO | C15H16O5
reactant | imidazole | 10.21 g | N1C=NC=C1 | C3H4N2
reactant | tert.-butyldimethylsilyl chloride | 10.85 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
solvent | ether | 1.5 l | CCOCC | C4H10O
solvent | brine | [Cl-].[Na+].O
product | (1S,5R,6S,7R)-7-Benzoyloxy-6-(tert.-butyldimethylsilyloxy)methyl-2-oxabicyclo[3.3.0]octan-3-one | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H]([C@H]2CC(O[C@H]2C1)=O)CO[Si](C)(C)C(C)(C)C | C21H30O5Si
